US07645771B2
A solution of benzyl cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetate (23.8 mg, 0.035 mmol) in 3 mL MeOH was stirred for 3 h under an atmospheric pressure of hydrogen and in the presence of catalytic 5% Pd/C. Filtration and evaporation afforded cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid (17.5 mg, 85%). ESI-MS 585 (M−H).

reactant | benzyl cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetate | 0.035 mmol, 23.8 mg | C1(CCCCC1)C(C(=O)OCC1=CC=CC=C1)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C43H53FN4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid | 17.5 mg, 85% | C1(CCCCC1)C(C(=O)O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C36H47FN4O2
